US08193359B2
4-(Furo[3,2-c]pyridine-2-carbonylsulfanyl)piperidine-1-carboxylic acid tert-butyl ester
A solution of EDCI (66 mg, 0.35 mmol) in anhydrous DMF (2 mL) was added to a stirred solution of furo[3,2-c]pyridine-2-carboxylic acid (45 mg, 0.28 mmol) in anhydrous DMF (1 mL). After 1 h, the mixture was treated with a solution of DMAP (6 mg, 0.05 mmol) and 4-mercaptopiperidine-1-carboxylic acid tert-butyl ester (50 mg, 0.23 mmol), before being stirred for an additional 16 h. The DMF was removed under reduced pressure, then the residue was purified by flash chromatography (IH-EtOAc, 1:1 to 3:7) to furnish the title compound: RT=3.34 min; m/z (ES+)=363.1 [M+H]+.

reactant | EDCI | 0.35 mmol, 66 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | furo[3,2-c]pyridine-2-carboxylic acid | 0.28 mmol, 45 mg | O1C(=CC=2C=NC=CC21)C(=O)O | C8H5NO3
reactant | 4-mercaptopiperidine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)S | C10H19NO2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.05 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(Furo[3,2-c]pyridine-2-carbonylsulfanyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)SC(=O)C1=CC=2C=NC=CC2O1 | C18H22N2O4S
